US08471027B2
A solution of 2-chloro-N-methoxy-N-methyl-nicotinamide (23.6 g, 118 mmol) in tetrahydrofuran (350 mL, 0.34M) at 0° C. was treated dropwise via an addition funnel with methyl magnesium chloride (3.0M solution in tetrahydrofuran, 100 mL, 300 mmol). The reaction became a very thick opaque white mixture and was diluted with additional tetrahydrofuran (150 mL). The reaction was stirred at 0° C. for 1 h. At this time, the reaction was carefully quenched with water (250 mL) and then partitioned between additional water (250 mL) and ethyl acetate (250 mL). The aqueous layer was back extracted with ethyl acetate (2×250 mL). The combined organics were washed with a saturated aqueous sodium chloride solution (250 mL), dried over magnesium sulfate, filtered, rinsed with ethyl acetate, and concentrated in vacuo. Flash chromatography (AnaLogix Intelliflash 280, 400 g silica gel column, 25-50% ethyl acetate/hexanes) afforded 1-(2-chloro-pyridin-3-yl)-ethanone (13.17 g, 72%) as a yellow oil.

reactant | 2-chloro-N-methoxy-N-methyl-nicotinamide | 118 mmol, 23.6 g | ClC1=C(C(=O)N(C)OC)C=CC=N1 | C8H9ClN2O2
reactant | methyl magnesium chloride | 300 mmol, 3.0M, 100 mL | C[Mg]Cl
solvent | tetrahydrofuran | 0.34M, 350 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 1-(2-chloro-pyridin-3-yl)-ethanone | 13.17 g, 72% | ClC1=NC=CC=C1C(C)=O | C7H6ClNO
